US04426381
8-Chloro-7-fluoro-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid ethyl ester
Three grams (0.01 mol) of ethyl 7-chloro-6-fluoro-2-mercapto-4-oxo-1,4-dihydroquinoline-3-carboxylate was dissolved in 10 ml of dimethyl formamide, then 4.1 grams (0.03 mol) of anhydrous potassium carbonate was added thereto and, with stirring at a room temperature, 1.9 grams (0.01 mol) of ethylene dibromide was dropped thereinto. The mixture was stirred at a room temperature overnight. The content was concentrated under reduced pressure and water was added to the residue. Crystals separated out therefrom were collected by filtration immediately, washed with water, dried and the crystals were recrystallized from ethanol to give the title compound. Colorless crystals. Yield 3.5 grams (94 percent). All of melting point, elementary analysis data, infrared absorption spectra, and nuclear magnetic resonance spectra coincided with those in example 15.

reactant | ethyl 7-chloro-6-fluoro-2-mercapto-4-oxo-1,4-dihydroquinoline-3-carboxylate | 0.01 mol, Three grams | ClC1=C(C=C2C(C(=C(NC2=C1)S)C(=O)OCC)=O)F | C12H9ClFNO3S
reactant | potassium carbonate | 0.03 mol, 4.1 grams | C([O-])([O-])=O.[K+].[K+]
reactant | ethylene dibromide | 0.01 mol, 1.9 grams | C(CBr)Br | C2H4Br2
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | 8-Chloro-7-fluoro-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=C2N(C3=CC(=C(C=C3C1=O)F)Cl)CCS2 | C14H11ClFNO3S
